US06071903
Methyl 2-[(4-Methoxybenzenesulfonyl)-(2-methylsulfonylaminobenzyl)amino]acrylate
To a solution of 1.0 g (2.54 mmol) of methyl [(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate in 10 ml of pyridine cooled to -5° C. was added 0.432 ml (5.58 mmol) of methanesulfonyl chloride. The mixture was stirred at 0° C. for 48 hours. To the mixture was added ice and H2O and the mixture was extracted with ethyl acetate. The extract was washed with H2O, 2 N citric acid, brine and dried with Na2SO4. The solvent was removed under vacuum and the residue triturated with ethyl acetate-hexane to give 0.90 g of a solid, 128-142° C. Anal. for C19H22N2O7S2 : Calc'd: C,50.2; H,4.9; N,6.2; S,14.1; Found: C,49.6; H,5.0; N,6.9; S,14.0; Mass spectrum (ES) 455.5 (M+H).

reactant | methyl [(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 2.54 mmol, 1.0 g | NC1=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC)C(C(=O)OC)CO)C=CC=C1 | C18H22N2O6S
reactant | methanesulfonyl chloride | 5.58 mmol, 0.432 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-[(4-Methoxybenzenesulfonyl)-(2-methylsulfonylaminobenzyl)amino]acrylate | 0.90 g | COC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)=C)CC1=C(C=CC=C1)NS(=O)(=O)C | C19H22N2O7S2
